2107-12-01 06:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - US LUE showed positive DVT in one of two brachial vein and in left
   cephalic vein, was in the arm that had a line prior, did not start
   heparin [**3-7**] recent vascular procedure.
   - tolerated well on decreasing sedation and paralytic.
   - had an episode of tachycardia, hypotension in the setting of nausea
   and vomiting.
   - preload dependent (critical AS and tachy), getting fluid resusitated.
   - fever to 103.6
 received Bcx, Ucx, sputum cx.
   - CT surgery did the trach, pt has impressive laryngeal edema, question
   if this can be addressed with prednisone burst, will need to follow up
   in CT surgery clinic.
   - tachy to 140-150's, in NSR, recieved 5 of lopressor IV x3.
   - short 20 seconds of complete AV block in the setting of her vomiting
   x2.
   - a burst of NSVT around 6:10am 3-4 episodes, each last about 20 beats.
   Allergies:
   Penicillamine
   rash;
   Doxycycline
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefazolin - [**2107-12-1**] 02:10 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2107-11-30**] 07:28 PM
   Midazolam (Versed) - [**2107-11-30**] 07:29 PM
   Metoprolol - [**2107-12-1**] 12:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-1**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 37.6
C (99.7
   HR: 115 (69 - 153) bpm
   BP: 119/63(86) {70/46(56) - 176/83(120)} mmHg
   RR: 23 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: [**Known lastname **] (Sinus Tachycardia)
   Wgt (current): 52.8 kg (admission): 52.8 kg
   Height: 60 Inch
             Total In:
                                                                  4,242 mL
                                                                    664 mL
   PO:
             TF:
   IVF:
                                                                  2,622 mL
                                                                    664 mL
   Blood products:
                                                                  1,620 mL
   Total out:
                                                                  1,412 mL
                                                                    165 mL
   Urine:
                                                                  1,242 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,830 mL
                                                                    499 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 147
   PIP: 10 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: 7.43/35/162/20/0
   Ve: 4.2 L/min
   PaO2 / FiO2: 405
   Physical Examination
   PHYSICAL EXAMINATION:
   GENERAL: Intubated, but alert and oriented, asking appropriate
   questions
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink,
   missing anterior tooth with diffuse OP blood
   NECK: Supple with JVP not elevated
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. 2/6 SEM. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: Large right groin hematoma with bruit, left shoulder
   hematoma.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   143 K/uL
   11.0 g/dL
   100 mg/dL
   0.5 mg/dL
   20 mEq/L
   3.4 mEq/L
   14 mg/dL
   111 mEq/L
   142 mEq/L
   31.0 %
   19.5 K/uL
        [image002.jpg]
                            [**2107-11-30**]  09:41 AM
                            [**2107-11-30**]  10:29 AM
                            [**2107-11-30**]  10:46 AM
                            [**2107-11-30**]  03:47 PM
                            [**2107-11-30**]  09:11 PM
                            [**2107-12-1**]  12:45 AM
                            [**2107-12-1**]  01:02 AM
                            [**2107-12-1**]  04:13 AM
   WBC
   19.9
   19.5
   Hct
   35
   34.4
   37.7
   34.2
   34.0
   31.0
   Plt
   135
   143
   Cr
   0.5
   0.5
   TropT
   0.02
   TCO2
   24
   24
   Glucose
   [**Telephone/Fax (3) 11085**]00
   Other labs: PT / PTT / INR:14.7/55.7/1.3, CK / CKMB /
   Troponin-T:110/5/0.02, ALT / AST:[**8-20**], Alk Phos / T Bili:40/1.0, Lactic
   Acid:1.8 mmol/L, Albumin:2.5 g/dL, LDH:291 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   This is an 86 year old female with a hx of RA, HTN, hyperlipidemia, and
   symptomatic AS who initially presented for elective valvuloplasty, now
   s/p ruptured right groin pseudoaneurysm and repair.
   .
   # Pseudoaneursym s/p repair: Vascular surgery is following. HCT
   improved 10 points with 4 units, a relatively appropriate bump.   Hct
   down trended over the past 24 hours, likely [**3-7**] dilutional.  Received
   Ancef x 24 hours per vascular
   - F/U vascular recs
   - serially trend HCT
   - T+S and IV access is an issue, will need to get PICC placed today.
   - BP control with IV hydral PRN and pain control
   .
   # S/P tracheostomy: Reported laryngeal edema after multiple intubation
   attempts. Received long acting paralytics during the procedure
   requiring longer term ventilation
   - Trach management per thoracics, consider steroids prior to extubation
   - wean sedation as tolerated, conduct a SBT
   - curbside rheum for steroid stress dose to reduce laryngeal swelling
   and prevent adrenal insufficiency.
   .
   # fever: patient had a fever to 103.6, likely infectious etiology,
   given + urine cx on [**11-29**], GNR.
   - f/u bcx, ucx, sputum cx
   - starting on IV cipro.
   .
   #arrythmia/av block/NSVT
 noted to be in the setting of vomiting or
   movement
   - on metoprolol as tolerated
   - consult EP regarding how to best control her arrythmia.
   .
   # Valves: s/p balloon valvuloplasty with good effect. No signs of
   volume overload currently.
   -Continue ASA 81mg
   .
   # Dilated stomach: Likely from extended ambu-bagging. Unable to pass
   NG/OGT. Will likely resolve on own.
   -Con't to monitor
   -serial abx exam, KUB
   .
   # RA: Con't prednisone and methotrexate/leucovorin.
   .
   # Hyperlipidemia: Con't statin
   .
   FEN:  NPO for now
   .
   ACCESS: PIV's, L a-line, L subclavian cordis
   .
   PROPHYLAXIS:
   -DVT ppx with HSC
   -Pain management with fentanyl
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2107-11-30**] 09:53 PM
   22 Gauge - [**2107-12-1**] 12:24 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-12-03 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2107-12-2**] 11:30 AM
   [**2107-12-2**]
   - started heparin gtt for LUE DVT per VSurg recs
   - switched to trach mask, satting well
   - thoracics plans to downsize trach to #6 on Wed
   - tube feeds started
   - received stress dose steroids
   - bolus 500 ml NS x 2 for FeNa 0.3%, UOP improved to 30-40 cc/hr
   - HCT stable.
   - Klebsiella UTI, sensitive to Cipro
   - overnight became agitated, combative, delirious
   Allergies:
   Penicillamine
   rash;
   Doxycycline
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefazolin - [**2107-12-1**] 08:00 AM
   Ciprofloxacin - [**2107-12-2**] 10:30 PM
   Infusions:
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-12-2**] 12:12 PM
   Morphine Sulfate - [**2107-12-2**] 08:00 PM
   Famotidine (Pepcid) - [**2107-12-2**] 10:30 PM
   Lorazepam (Ativan) - [**2107-12-3**] 05:15 AM
   Haloperidol (Haldol) - [**2107-12-3**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-3**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 128 (78 - 128) bpm
   BP: 165/94(127) {121/56(82) - 180/95(134)} mmHg
   RR: 34 (15 - 34) insp/min
   SpO2: 96%
   Heart rhythm: [**Known lastname **] (Sinus Tachycardia)
   Wgt (current): 59 kg (admission): 52.8 kg
   Height: 60 Inch
             Total In:
                                                                  2,926 mL
                                                                    859 mL
   PO:
             TF:
                                                                    267 mL
                                                                    304 mL
   IVF:
                                                                  2,458 mL
                                                                    195 mL
   Blood products:
   Total out:
                                                                    635 mL
                                                                    245 mL
   Urine:
                                                                    635 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,291 mL
                                                                    614 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 295 (295 - 295) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 96%
   ABG: 7.43/29/143//-3
   Ve: 5.1 L/min
   PaO2 / FiO2: 358
   Physical Examination
   GEN: anxious, eyes closed, delirious
   CV: regular rhythm, tachycardic, [**4-8**] crescendo/decrescendo murmur heard
   best @ RUSB
   RESP: CTA on limited inspiration
   ABD: S, NT/ND, +BS
   EXT: warm, weak but palpable distal pulses bilaterally
   Labs / Radiology
   122 K/uL
   10.9 g/dL
   163 mg/dL
   0.4 mg/dL
   20 mEq/L
   4.4 mEq/L
   20 mg/dL
   113 mEq/L
   139 mEq/L
   33.0 %
   13.1 K/uL
        [image002.jpg]
                            [**2107-12-1**]  01:02 AM
                            [**2107-12-1**]  04:13 AM
                            [**2107-12-1**]  06:33 PM
                            [**2107-12-1**]  06:53 PM
                            [**2107-12-2**]  02:48 AM
                            [**2107-12-2**]  03:09 AM
                            [**2107-12-2**]  08:44 AM
                            [**2107-12-2**]  08:49 AM
                            [**2107-12-2**]  01:18 PM
                            [**2107-12-2**]  04:00 PM
   WBC
   19.5
   13.1
   Hct
   31.0
   29.5
   31.4
   33.9
   33.0
   Plt
   143
   122
   Cr
   0.5
   0.5
   0.4
   0.4
   TCO2
   24
   20
   22
   19
   20
   Glucose
   100
   107
   163
   Other labs: PT / PTT / INR:15.0/98.1/1.3, CK / CKMB /
   Troponin-T:110/5/0.02, ALT / AST:[**8-20**], Alk Phos / T Bili:40/1.0, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:291 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   R fem U/S:
   No pseudoaneurysm seen in the right groin. An active leak cannot be
   assessed with ultrasound.
   Assessment and Plan
   86 yo F c h/o RA, HTN, hyperlipidemia, and symptomatic AS who initially
   presented for elective valvuloplasty, now s/p ruptured right groin
   pseudoaneurysm and repair.
   .
   # delirium / agitation: Unclear etiology; could be ICU delirium vs.
   infection vs. steroid-induced delirium vs. drug-induced (trazodone).
   -          verbal and environmental reorientation when appropriate
   -          continue ciprofloxacin for treatment of UTI
   -          consider rheum c/s regarding management of patient
s chronic
   steroid dose
   -          d/c trazodone
   # Pseudoaneursym s/p repair: Vascular surgery is following. Hct
   initially trended down with repeat after two units from 29-31, but now
   stable.  U/S of R groin shows no evidence of continued aneurysm.
   - Trend HCT [**Hospital1 7**]
   - If clinical suspicion of leak, can consider I-CT of R leg.
   .
   # Decreased UOP: Significantly positive over the last 24 hours with UOP
   ~30 cc/hr. Renal function remains normal. [**Month (only) 51**] be poor forward flow due
   to volume overload, third-spacing with recent trauma.
   - continue to monitor; IVF if clinically volume depleted on exam
   .
   # A. tach: Curbside by EP yesterday suggested BB alone with no further
   management. Started metoprolol 25mg PO BID with good effect and no
   reccurence.
   -Continue metoprolol
   .
   # S/P tracheostomy: Reported laryngeal edema after multiple intubation
   attempts.
   - Trach management per thoracics, plan to downsize to #6 on wed
   - Wean as tolerated, will try on Trach mask today
   .
   # UTI: Found to have klebsiella UTI.
   -Con
t cipro
   -F/u further cultures
   -CIS
   .
   # Valves: s/p balloon valvuloplasty with good effect. No signs of
   volume overload currently.
   -Continue ASA 81mg
   ..
   # RA: Con't prednisone and methotrexate/leucovorin.  Will need to
   discuss with rheumatology how to dose DMARDs as patient cannot receive
   POs currently and MTX cannot be given via NGT.
   .
   # Hyperlipidemia: Con't statin
   .
   FEN:  NPO for now
   .
   ACCESS: PIV's, L a-line, PICC
   .
   PROPHYLAXIS:
   -DVT ppx with HSC
   -Pain management with fentanyl
   .
   CODE:  full
   .
   COMM:  [**Name (NI) 4546**] [**Name (NI) 11059**] (Son and HCP) [**Telephone/Fax (1) 11062**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2107-12-3**] 04:03 AM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2107-11-30**] 09:53 PM
   22 Gauge - [**2107-12-1**] 12:24 AM
   PICC Line - [**2107-12-1**] 06:01 PM
   Arterial Line - [**2107-12-1**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-12-04 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2107-12-3**] 07:45 PM
 OR SENT - At [**2107-12-3**] 09:20 PM
 OR RECEIVED - At [**2107-12-3**] 10:30 PM
 ARTERIAL LINE - START [**2107-12-3**] 10:30 PM
   - tracheostomy mask coverted to CPAP [**3-7**] agitation.
   - agitation likely due to high dose steroid - Rheum agrees with
   assessment, NTD. REC: methotrexate SC should be given at the same dose
   as PO, leucovorine by NGT 10 hour after.
   - Increased serosangious output from the site, noted to be tense,
   echymotic, painful, cross midline - called vascular sx, sent for CT +
   scan, repeat HCT 27.4, type and crossed 6 units, went to the OR - got
   250cc of old blood removed, needed jp drain, recieved 1unit and 400
   crystaloid in OR.
   - had a respiratory alkalosis when returned from the OR, decreased RR
   and Vt setting adjusted for over-ventilation.
   Allergies:
   Penicillamine
   rash;
   Doxycycline
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefazolin - [**2107-12-1**] 08:00 AM
   Ciprofloxacin - [**2107-12-2**] 10:30 PM
   Vancomycin - [**2107-12-3**] 10:30 PM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-12-3**] 09:00 AM
   Haloperidol (Haldol) - [**2107-12-3**] 11:20 AM
   Morphine Sulfate - [**2107-12-3**] 03:30 PM
   Midazolam (Versed) - [**2107-12-4**] 04:00 AM
   Fentanyl - [**2107-12-4**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-4**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.5
C (97.7
   HR: 74 (66 - 118) bpm
   BP: 97/41(60) {97/41(60) - 189/97(251)} mmHg
   RR: 11 (10 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59 kg (admission): 52.8 kg
   Height: 60 Inch
             Total In:
                                                                  3,515 mL
                                                                    204 mL
   PO:
             TF:
                                                                    743 mL
   IVF:
                                                                  1,497 mL
                                                                     84 mL
   Blood products:
                                                                    645 mL
   Total out:
                                                                  2,400 mL
                                                                    565 mL
   Urine:
                                                                  2,030 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   85 mL
   Balance:
                                                                  1,115 mL
                                                                   -361 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   Vt (Spontaneous): 265 (265 - 403) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.44/34/177/27/0
   Ve: 4 L/min
   PaO2 / FiO2: 443
   Physical Examination
   GEN: anxious, eyes closed, delirious
   CV: regular rhythm, tachycardic, [**4-8**] crescendo/decrescendo murmur heard
   best @ RUSB
   RESP: CTA on limited inspiration
   ABD: S, NT/ND, +BS
   EXT: warm, weak but palpable distal pulses bilaterally
   Labs / Radiology
   133 K/uL
   10.5 g/dL
   94 mg/dL
   0.3 mg/dL
   27 mEq/L
   3.9 mEq/L
   12 mg/dL
   108 mEq/L
   137 mEq/L
   29.8 %
   9.1 K/uL
        [image002.jpg]
                            [**2107-12-2**]  04:00 PM
                            [**2107-12-3**]  09:00 AM
                            [**2107-12-3**]  04:14 PM
                            [**2107-12-3**]  06:39 PM
                            [**2107-12-3**]  07:43 PM
                            [**2107-12-3**]  11:13 PM
                            [**2107-12-3**]  11:24 PM
                             [**2107-12-4**]  01:15 AM
                             [**2107-12-4**]  01:26 AM
                             [**2107-12-4**]  05:27 AM
   WBC
   13.4
   10.9
   10.1
   10.6
   9.1
   Hct
   33.0
   31.0
   27.4
   26.7
   30.8
   31.5
   29.8
   Plt
   170
   181
   156
   138
   133
   Cr
   0.4
   0.3
   0.3
   0.4
   0.3
   0.3
   TCO2
   22
   24
   24
   Glucose
   141
   119
   163
   132
   94
   Other labs: PT / PTT / INR:12.0/25.4/1.0, CK / CKMB /
   Troponin-T:110/5/0.02, ALT / AST:[**9-27**], Alk Phos / T Bili:41/1.5, Lactic
   Acid:1.2 mmol/L, Albumin:2.3 g/dL, LDH:291 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   86 yo F c h/o RA, HTN, hyperlipidemia, and symptomatic AS who initially
   presented for elective valvuloplasty, now s/p ruptured right groin
   pseudoaneurysm and repair.
   .
   # Pseudoaneursym s/p repair: Vascular surgery is following. Hct
   initially trended down with repeat after two units from 29-31, but now
   stable.  U/S of R groin shows no evidence of continued aneurysm.  On
   [**12-3**], right groin site had increased swelling and hematoma, reeval for
   hematoma.  Had mild resp. alkalosis
 vent readjusted, resolved.
   - Trend HCT [**Hospital1 7**], transfuse as needed
   - serial right leg exam, holding heparin
   - If suspect bleed, will R-CT of R leg, surgery onboard.
   - appropriate wound care, watch for infection.
   - pain control with fentanyl and morphine prn as weaning off sedation
   - restart tubefeed as tolerated
   - serial left arm exam given thrombus in brachial and cephalic vein.
   .
   # S/P tracheostomy: Reported laryngeal edema after multiple intubation
   attempts, CPAP for now, will wean as tolerated.
   - Trach management per thoracics, plan to downsize to #6 on wed
   - Wean as tolerated.
   .
   # UTI: Found to have klebsiella UTI.
   -Con
t cipro
   -F/u further cultures
   -CIS
   .
   # Decreased UOP: Significantly positive over the last 24 hours with UOP
   ~30 cc/hr. Renal function remains normal. [**Month (only) 51**] be poor forward flow due
   to volume overload, third-spacing with recent trauma.
   - continue to monitor; IVF if clinically volume depleted on exam
   .
   # A. tach: Curbside by EP yesterday suggested BB alone with no further
   management. Started metoprolol 25mg PO BID with good effect and no
   recurrence.
   -Continue metoprolol
   .
   # delirium / agitation: Unclear etiology; could be ICU delirium vs.
   infection vs. steroid-induced delirium vs. drug-induced (trazodone).
   Rheum agrees that likely due to steroid induced delirium.  Currently
   not active. Hold all delirium inducing meds.
   - consider olanzapine and haldol as needed.
   - continue ciprofloxacin for treatment of UTI
   - rheum c/s -  cont. chronic steroid dose, watch for steroid induced
   delirium
   .
   # Valves: s/p balloon valvuloplasty with good effect. No signs of
   volume overload currently.
   -Continue ASA 81mg
   ..
   # RA: Con't prednisone and methotrexate/leucovorin.  Will need to
   discuss with rheumatology how to dose DMARDs as patient cannot receive
   POs currently and MTX cannot be given via NGT.
   .
   # Hyperlipidemia: Con't statin
   .
   FEN:  NPO for now
   .
   ACCESS: PIV's, L a-line, PICC
   .
   PROPHYLAXIS:
   -DVT ppx with HSC
   -Pain management with fentanyl
   .
   CODE:  full
   .
   COMM:  [**Name (NI) 4546**] [**Name (NI) 11059**] (Son and HCP) [**Telephone/Fax (1) 11062**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2107-11-30**] 09:53 PM
   PICC Line - [**2107-12-1**] 06:01 PM
   Arterial Line - [**2107-12-3**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-12-05 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**12-4**]
   -JP has drained roughly 80ccs at 7PM, 50cc more over night
   -Off Versed, no longer agitated
   -No CT scan read as of Sunday PM
   -PM HCT 34.8->38 came back down to 32.8 with 1L NS
   -left arm circumfrences - 27cm at upper arm 30cm at elbow where marked
   -SBPs up to 190's consistently, required 10mg IV hydral, no stress or
   pain noted
   -Vomited several hundred CCs of her tube feeds at 8PM, more sinus tach
   after OG placed by nurse
   -OG tube placed to suction
   -Oral meds switched to IV
   - remains incredibly labile
   - switched to CMV assist after increased WOB was noted.
   - Leg CT
   IMPRESSION:
   1. Large hematoma with fluid-fluid levels within the medial compartment
   of
   the thigh anterior to the common and superficial femoral arteries.
   Small
   hematoma in the right pectineus muscle. Linear foci of high attenuation
   best
   seen on the venous phase could represent hemorrhage from a tiny artery
   or vein
   of uncertain origin.
   2. No active extravasation from the common or superficial femoral
   artery or
   evidence of communicating pseudoaneurysm.
   Allergies:
   Penicillamine
   rash;
   Doxycycline
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2107-12-3**] 10:30 PM
   Ciprofloxacin - [**2107-12-5**] 03:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2107-12-4**] 05:55 PM
   Fentanyl - [**2107-12-4**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2107-12-5**] 01:45 AM
   Metoprolol - [**2107-12-5**] 03:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-5**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 90 (72 - 130) bpm
   BP: 100/44(62) {82/40(52) - 180/87(123)} mmHg
   RR: 11 (10 - 33) insp/min
   SpO2: 97%
   Heart rhythm: [**Known lastname **] (Sinus Tachycardia)
   Wgt (current): 59 kg (admission): 52.8 kg
   Height: 60 Inch
             Total In:
                                                                  1,903 mL
                                                                    993 mL
   PO:
             TF:
                                                                    255 mL
   IVF:
                                                                  1,138 mL
                                                                    993 mL
   Blood products:
   Total out:
                                                                  2,185 mL
                                                                    455 mL
   Urine:
                                                                  1,100 mL
                                                                    245 mL
   NG:
                                                                    950 mL
                                                                    150 mL
   Stool:
   Drains:
                                                                    135 mL
                                                                     60 mL
   Balance:
                                                                   -282 mL
                                                                    538 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 379 (379 - 379) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 144
   PIP: 14 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.48/30/187/23/0
   Ve: 4.3 L/min
   PaO2 / FiO2: 468
   Physical Examination
   Gen: lying in bed, responding to her name, grimacing with any movement
   CV: tachycardic, s1s2 unable to assess MGR
   Pulm: Ventilator breath sounds auscultated
   Right thigh site:  no longer tense, covered with clean dressing
   LUE: swelling greatly reduced 27cm at elbow, 23cm at upper arm
   Labs / Radiology
   189 K/uL
   11.5 g/dL
   118 mg/dL
   0.3 mg/dL
   23 mEq/L
   4.2 mEq/L
   14 mg/dL
   105 mEq/L
   134 mEq/L
   32.8 %
   13.0 K/uL
        [image002.jpg]
                             [**2107-12-4**]  01:26 AM
                             [**2107-12-4**]  05:27 AM
                             [**2107-12-4**]  04:00 PM
                             [**2107-12-4**]  10:50 PM
                             [**2107-12-4**]  11:04 PM
                             [**2107-12-5**]  12:13 AM
                             [**2107-12-5**]  12:18 AM
                             [**2107-12-5**]  01:46 AM
                             [**2107-12-5**]  05:25 AM
                             [**2107-12-5**]  05:39 AM
   WBC
   9.1
   9.9
   13.0
   Hct
   29.8
   34.8
   38.3
   32.8
   Plt
   133
   155
   189
   Cr
   0.3
   0.2
   0.3
   TCO2
   24
   20
   22
   23
   23
   Glucose
   94
   119
   118
   Other labs: PT / PTT / INR:12.0/25.4/1.0, CK / CKMB /
   Troponin-T:110/5/0.02, ALT / AST:[**9-27**], Alk Phos / T Bili:41/1.5, Lactic
   Acid:1.2 mmol/L, Albumin:2.3 g/dL, LDH:291 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Assessment and Plan
   86 yo F c h/o RA, HTN, hyperlipidemia, and symptomatic AS who initially
   presented for elective valvuloplasty, now s/p ruptured right groin
   pseudoaneurysm and repair.
   .
   # Pseudoaneursym s/p repair: Vascular surgery is following. Hct
   initially trended down with repeat after two units from 29-31, but now
   stable, in fact increased to 38.3.  U/S of R groin shows no evidence of
   continued aneurysm.  On [**12-3**], right groin site had increased swelling
   and hematoma, reeval for hematoma.  Had mild resp. alkalosis
 vent
   readjusted, resolved.
   - HCT trended up with no transfusion, patient received 1L NS and
   returned to b/l HCT
   - serial right leg exam, holding heparin
   - If suspect re-bleed, will R-CT of R leg, surgery onboard.
   - appropriate wound care, watch for infection.
   - pain control with morphine prn as vomiting likely [**3-7**] versed
   - serial left arm exam given thrombus in brachial and cephalic vein.
   .
   #LUE DVT
 likely [**3-7**] cordis
   - Serial measurement today reveals decreased size from 30->27cm at the
   Elbow, and 27->23 at the upper arm
   - No heparin after bleed on Friday
   .
   # S/P tracheostomy: Reported laryngeal edema after multiple intubation
   attempts, tolerated CPAP for the day, however required CMV assist
   overnight [**3-7**] increased work of breathing, will wean as tolerated.   As
   she continues to overbreath the vent, we will switch her back to CPAP
   - Given respiratory alkalosis, will change to CPAP
   - Trach management per thoracics, plan to downsize to #6 on wed
   - Wean as tolerated.
   .
   #Vomitting:  Possibly related to fentanyl induced gastroparesis and
   inability to check tube feed residuals, though vomiting was mostly
   bilious.
   -NPO for now
   -OG tube in place for suctioning as needed
   -reduce fentanyl and slow tube feeds
   .
   # UTI: Found to have klebsiella UTI.
   -Con
t cipro
   -F/u further cultures
   -CIS
   .
   # Decreased UOP: Significantly positive over the last 24 hours with UOP
   ~30 cc/hr. Renal function remains normal. [**Month (only) 51**] be poor forward flow due
   to volume overload, third-spacing with recent trauma.
   - continue to monitor; IVF if clinically volume depleted on exam
   -bolus as needed
   -Urine lytes, calculate GFR
   .
   # A. tach: Curbside by EP yesterday suggested BB alone with no further
   management. Started metoprolol 25mg PO BID with good effect and no
   recurrence.
   -Continue metoprolol
   .
   # delirium / agitation: Unclear etiology; could be ICU delirium vs.
   infection vs. steroid-induced delirium vs. drug-induced (trazodone).
   Rheum agrees that likely due to steroid induced delirium.  Currently
   not active. Hold all delirium inducing meds.
   - consider olanzapine and haldol as needed.
   - continue ciprofloxacin for treatment of UTI
   - rheum c/s -  cont. chronic steroid dose, watch for steroid induced
   delirium
   .
   # Valves: s/p balloon valvuloplasty with good effect. No signs of
   volume overload currently.
   -Continue ASA 81mg
   ..
   # RA: Con't prednisone and methotrexate/leucovorin.  Will need to
   discuss with rheumatology how to dose DMARDs as patient cannot receive
   POs currently and MTX cannot be given via NGT.
   -will start SQ MTX once edema resolves
   .
   # Hyperlipidemia: Con't statin
   .
   FEN:  NPO for now
   .
   ACCESS: PIV's, L a-line, PICC
   .
   PROPHYLAXIS:
   -DVT ppx with HSC
   -Pain management with fentanyl
   .
   CODE:  full
   .
   COMM:  [**Name (NI) 4546**] [**Name (NI) 11059**] (Son and HCP) [**Telephone/Fax (1) 11062**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-12-1**] 06:01 PM
   Arterial Line - [**2107-12-3**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: